data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH2+:21].CCNC[CH:10]=[C:11](N)[O-:12]>>[H:20][CH:10](CNCC)[C:11](=[O:12])N.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)OC)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CO[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
CC[N:10](CC)[S:20](F)(F)[F:21].CCO>>CC[N+:10](=[S:20](F)F)CC.[F-:21].CCO 10=20;20,21=21
C1=CC(=CC(=C1)[CH:20]=[OH+:21])Cl.C(CO)[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1=CC(=CC(=C1)[CH:20]([OH:21])[OH+:10]CCO)Cl.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CCC(C)C[CH:20]([N:10]1CCCCC1)[OH2+:21].CCOC(=O)CC(=O)C.CC(=O)[O-].C1CCNCC1>>CCC(C)C[CH:20]=[N+:10]1CCCCC1.[OH2:21].CCOC(=O)CC(=O)C.CC(=O)[O-].C1CCNCC1 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.C[C:11](=[CH2:10])C>>[H:20][CH2:10][C+:11](C)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC(=C(C=C1)O)C(=O)O.COC(OC)[O:10]C>>[H:20][O+:10](C)C(OC)OC.C1=CC(=C(C=C1S(=O)(=O)[O-:21])C(=O)O)O 10=20;20,21=21
[H:20][P+:21](I)(I)I.[OH2:10]>>[H:20][OH2+:10].[P:21](I)(I)I 10=20;20,21=21
CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N:10]4C)C(O2)C(=O)CC5)OC(=O)C)C=C1.[C:20](#[N:21])Br>>CC(=O)OC1=C2C3=C(CC4C5(C3(CC[N+:10]4(C)[C:20](=[N-:21])Br)C(O2)C(=O)CC5)OC(=O)C)C=C1 10=20;20,21=21
[Li+:20].CC(C1=CC=CC=C1)C(=[O:10])C.[AlH4-]>>[Li:20][O+:10]=C(C)C(C)C1=CC=CC=C1.[AlH4-] 10=20,
COC1=C2C3=C(CC4C5(C3(CCN4CCC6=CC=CC=C6)[CH:20]([O:21]2)[CH-:10]CC5)O)C=C1.N#N.O.[K+]>>COC1=C(C2=C(CC3C4(C2(CCN3CCC5=CC=CC=C5)[CH:20]=[CH:10]CC4)O)C=C1)[O-:21].N#N.O.[K+] 10=20;20,21=21
C1COCC[C:20]1([C:21]#N)[O-:10].CO>>[C-:21]#N.C1COCC[C:20]1=[O:10].CO 10=20;20,21=21
CCCC1=C[C:21]2(C[CH2:20]2)[CH:22]=[CH:23][C:24]1=[O+:25]C.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CCCC1=C[C:21](=[CH:22][CH:23]=[C:24]1[O:25]C)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
C[N+:21](C)(C)[CH2:20][CH:10]=[CH:11][O-:12]>>C[N:21](C)C.[CH2:20]=[CH:10][CH:11]=[O:12] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(CCN(CCC2=CC3=C(C=C21)OCO3)C(=O)C4=C(C(=CC=C4Br)OC)OC)[O:22][I+:23]5(C6=C(C=CC=C6)C(=O)O5)OC(=O)C.CC(=O)[O-:10].CC(=O)O>>[H:20][O:10]C(=O)C.CC(=O)O[I:23]1C2=C(C=CC=C2)C(=O)O1.COC1=CC=C(C(=C1OC)C(=O)N2CCC3=CC4=C(C=C3[C:21](=[O:22])CC2)OCO4)Br.CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C1=C(C(=C(C(=C1)Br)OC2=CC(=CC(=C2)C#N)C(O)[O:10]CCO)F)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][O+:10](CCO)C(C1=CC(=CC(=C1)OC2=C(C(=CC=C2Br)CO)F)C#N)O.[OH2:21].CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[CH2+:20][O:10][Cu]OS(=O)(=O)C(F)(F)F>>[CH2:20]=[O+:10][Cu]OS(=O)(=O)C(F)(F)F 10=20,
CC(C)[OH+:11][Al-:10](OC(C)C)(OC(C)C)OC(C)C1CCCCC1.CC(C)[O-]>>CC(C)[OH:11].CC(C)O[Al:10](OC(C)C)OC(C)C1CCCCC1.CC(C)[O-] 10,11=11
[H:20][OH:21].C(=[N-:10])C#N>>[H:20][N:10]=CC#N.[OH-:21] 10=20;20,21=21
C[SH:10].[I:20][I:21]>>C[SH+:10][I:20].[I-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(CC1)([OH:10])OC2=C(C=CC=C2)O>>[H:20][OH+:10]C1(CCCCC1)OC2=C(C=CC=C2)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
C[N:10](C)[CH+:20]S>>C[N+:10](=[CH:20]S)C 10=20,
[CH2:10]=[NH:11]>>[CH2+:10][NH-:11] 10,11=11
C[CH:20]([CH-:10][N+](=O)[O-])[OH:21]>>C[CH:20]=[CH:10][N+](=O)[O-].[OH-:21] 10=20;20,21=21
C[S:10]C1CCCCC1.C[S:20][S+:21](C)C.[B-](F)(F)(F)F>>C[S:21]C.C[S:20][S+:10](C)C1CCCCC1.[B-](F)(F)(F)F 10=20;20,21=21
[H:20][OH2+:21].CC(CC(=O)C1=C(C=CC=C1)Cl)(C2=C(C=CC=C2)Cl)[O-:10]>>[H:20][O:10]C(C)(CC(=O)C1=C(C=CC=C1)Cl)C2=C(C=CC=C2)Cl.[OH2:21] 10=20;20,21=21
CC[N:10](CC)[CH:20](C)[OH2+:21]>>CC[N+:10](=[CH:20]C)CC.[OH2:21] 10=20;20,21=21
CC[CH:20]([OH:10])[OH+:21]C>>CC[CH:20]=[OH+:10].C[OH:21] 10=20;20,21=21
C[CH:20]=[O:21].OP(=O)(O)[O-:10]>>C[CH:20]([O-:21])[O:10]P(=O)(O)O 10=20;20,21=21
C(=[NH:10])N.Cl[Cu:20]Cl>>C(=[NH+:10][Cu-:20](Cl)Cl)N 10=20,
[H:20][C:21]12C=CC=C[C+:22]1CCCC2C.[F-:10]>>[H:20][F:10].CC1CCC[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
C[C+:20](C)OC1=CC=CC=C1.[OH2:10].OS(=O)(=O)[O-]>>C[C:20](C)([OH2+:10])OC1=CC=CC=C1.OS(=O)(=O)[O-] 10=20,
[H:20][C:21]#CCO[Si](C)(C)C.[NH2-:10]>>[H:20][NH2:10].C[Si](C)(C)OCC#[C-:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC1CCCCC1(N2CCCC2)[OH:10]>>[H:20][OH+:10]C1(CCCCC1C)N2CCCC2.OS(=O)(=O)[O-:21] 10=20;20,21=21
CCCCC[C:11]#[C:10]CC(C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CCCCC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)C 10,11=10,20;20,21=21
[H:20][OH+:21]P(C)(C)(C)I.[OH2:10]>>[H:20][OH2+:10].CP(C)(C)([OH:21])I 10=20;20,21=21
CC(=O)[O:11][Si-:10](C)(C)(C)OS(=O)(=O)C>>CC(=O)[O-:11].C[Si:10](C)(C)OS(=O)(=O)C 10,11=11
C(C(=O)[O-])[NH:10]CC(=O)O[Ca:20]O>>C1C(=O)O[Ca-:20]([NH+:10]1CC(=O)[O-])O 10=20,
[H:20][C:21]1([CH+:22]C(=CO1)Br)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C(=CO1)Br 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCNC(C)([O-:10])OCC>>[H:20][O:10]C(C)(NCC)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])CCC1(C)O.[OH-:10]>>[H:20][OH:10].CC1(CC[C:22](=[CH:21]1)[O-:23])O 10=20;22,23=23;20,21=21,22
